US08937092B2
2-(N-(2-Fluoro-4-(phenoxycarbonylamino)benzyl)sulfamoylcarbamoyloxy)-2-methylpropan-1-ylium (100 mg, 0.225 mmol) was dissolved in acetonitrile. (2-m-Tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (60 mg, 0.225 mmol) and 4-dimethylaminopyridine (27 mg) were added to the solution. The reaction mixture was stirred for overnight at 50° C. The mixture was extracted with ethyl acetate and washed with brine. Drying over magnesium sulfate, evaporation of the ethyl acetate and purification by column chromatography gave tert-butyl N-(2-fluoro-4-(3-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)ureido)benzyl)sulfamoylcarbamate (70 mg, 51%).

reactant | 2-(N-(2-Fluoro-4-(phenoxycarbonylamino)benzyl)sulfamoylcarbamoyloxy)-2-methylpropan-1-ylium | 0.225 mmol, 100 mg | FC1=C(CNS(=O)(=O)NC(=O)OC([CH2+])(C)C)C=CC(=C1)NC(=O)OC1=CC=CC=C1
reactant | (2-m-Tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 0.225 mmol, 60 mg | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl N-(2-fluoro-4-(3-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)ureido)benzyl)sulfamoylcarbamate | 70 mg, 51% | FC1=C(CNS(=O)(=O)NC(OC(C)(C)C)=O)C=CC(=C1)NC(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C | C27H29F4N5O5S
